US05807891
48c) 5(S)-(Boc-Amino)-4(S)-hydroxy-6-phenyl-2(R)-[(3,4,5-trimethoxyphenyl)methyl]hexanoic acid
In analogy with Example 44d), 1.097 g of 5(S)-[1(S)-(Boc-amino)-2-phenylethyl]-3(R)-[(3,4,5-trimethoxyphenyl)methyl]dihydrofuran-2-(3H)-one in 36.48 ml of dimethoxyethane and 18.39 ml of water are hydrolysed with 9.03 ml of 1M lithium hydroxide solution to give the title compound, which is subjected, without purification, to further processing.

reactant | 5(S)-[1(S)-(Boc-amino)-2-phenylethyl]-3(R)-[(3,4,5-trimethoxyphenyl)methyl]dihydrofuran-2-(3H)-one | 1.097 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)[C@@H]1C[C@H](C(O1)=O)CC1=CC(=C(C(=C1)OC)OC)OC | C27H35NO7
reactant | lithium hydroxide | 1M, 9.03 ml | [OH-].[Li+]
solvent | dimethoxyethane | 36.48 ml | C(OC)COC | C4H10O2
solvent | water | 18.39 ml | O | H2O
product | 5(S)-(Boc-Amino)-4(S)-hydroxy-6-phenyl-2(R)-[(3,4,5-trimethoxyphenyl)methyl]hexanoic acid | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=CC(=C(C(=C1)OC)OC)OC)O)CC1=CC=CC=C1 | C27H37NO8
